US05208235
A. 1-(Diethoxymethyl)-1H-imidazole
Imidazole (6.81 g, 0.10 mol, 1.0 eq), triethyl orthoformate (66.5 mL, 0.40 mol, 4.0 eq) and para-toluenesulfonic acid (0.5 g) were combined and heated at 130° C. Ethanol was slowly distilled off. After the distillation of the ethanol ceased, the reaction was distilled using a floor pump (0.1 mm). Excess triethyl orthoformate distilled at 50° C. and then the product was distilled at 78°-84° C. to give the title compound (12.316 g, 72%). B. 2-Butyl-1H-imidazole

reactant | Imidazole | 0.10 mol, 6.81 g, 1.0 eq | N1C=NC=C1 | C3H4N2
reactant | triethyl orthoformate | 0.40 mol, 66.5 mL, 4.0 eq | C(OCC)(OCC)OCC | C7H16O3
catalyst | para-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-(Diethoxymethyl)-1H-imidazole | 12.316 g, 72% | C(C)OC(N1C=NC=C1)OCC | C8H14N2O2
